US05510369
Preparation of trans-4-Amino-cyclohexylmethyl N-(3,3-diphenyl-1-oxo-propan-1-yl)-L-proline amide.
To a stirred solution of 100 mg (0.31 mmol) of trans-4-(t-Butoxycarbonyl)aminocyclohexylmethyl L-proline amide, 70 mg (0.31 mmol) of 3,3 diphenylpropionic acid, 46 mg (0.34 mmol) of HOBT, and 34 mg (0.34 mmol) of triethylamine in 2 ml of anh. DMF under a nitrogen atmosphere was added 65 mg (0.34 mmol) of EDC. The resulting solution was stirred at room temp. for 18 h. The reaction was diluted with 2× its' volume of aq. 10% citric acid solution, and the mixture extracted 2× with EtOAc. The combined EtOAc extracts were washed with water and brine, and were dried over anh. MgSO4. Filtration and concentration gave crude product as a yellow oil. The product was purified via column chromatography over silica gel with 3:2 EtOAc/CHCL3 to give 109 mg (64%) of product as a clear glass.

reactant | trans-4-(t-Butoxycarbonyl)aminocyclohexylmethyl L-proline amide | 0.31 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](N(C1)CC1CCCCC1)C(=O)N | C17H31N3O3
reactant | 3,3 diphenylpropionic acid | 0.31 mmol, 70 mg | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.34 mmol, 34 mg | C(C)N(CC)CC | C6H15N
reactant | EDC | 0.34 mmol, 65 mg
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | trans-4-Amino-cyclohexylmethyl N-(3,3-diphenyl-1-oxo-propan-1-yl)-L-proline amide | 109 mg, 64% | N[C@@H]1C[C@H](N(C1)CC1CCCCC1)C(=O)NC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H35N3O2
